US04262004
To a stirred mixture of 3 parts of imidazo[2,1-b]benzothiazol-6-amine, 16 parts of acetic acid and 32 parts of water is added dropwise a solution of 1.54 parts of potassium cyanate in 32 parts of water (slightly exothermic reaction). Upon completion, stirring is continued overnight at room temperature. The reaction mixture is alkalized with ammonium hydroxide. Upon stirring, the product is precipitated. It is filtered off and dried, yielding 3 parts of N-(2,3-dihydroimidazo[2,1-b]benzothiazol-6-yl)urea; mp. +300° C.

reactant | imidazo[2,1-b]benzothiazol-6-amine | N=1C=CN2C1SC1=C2C=C(C=C1)N | C9H7N3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | [O-]C#N.[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | N-(2,3-dihydroimidazo[2,1-b]benzothiazol-6-yl)urea | N=1CCN2C1SC1=C2C=C(C=C1)NC(=O)N | C10H10N4OS
